US04743601
1,2-Dihydro-5-methyl-3H-1,4-oxazino[2,3-c]quinoline
A mixture of 3-bromo-N-(2-hydroxyethyl)-2-methyl-4-quinolinamine (11.5 g), potassium-tert-butoxide (3.7 g) and 100 ml of dimethylformamide (DMF) was stirred at 80° C. for 3 hours. The mixture was cooled and diluted with 600 ml of water and thereafter kept in a refrigerator for 2 days. The resultant solid was filtered and recrystallized from isopropanol. The yield was 3.3 g, mp 203°-204° C.

reactant | 3-bromo-N-(2-hydroxyethyl)-2-methyl-4-quinolinamine | 11.5 g | BrC=1C(=NC2=CC=CC=C2C1NCCO)C | C12H13BrN2O
reactant | potassium-tert-butoxide | 3.7 g | CC(C)([O-])C.[K+]
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | 600 ml | O | H2O
product | 1,2-Dihydro-5-methyl-3H-1,4-oxazino[2,3-c]quinoline | CC1=NC=2C=CC=CC2C2=C1OCCN2 | C12H12N2O
